US08912360B2
20 g of 2-{Benzyl-[2-(4-benzyloxyphenyl)-ethyl]-amino}-1-(4-hydroxy-phenyl)-propan-1-one and 100 ml of methyl ethyl ketone are introduced into a 250 ml reactor. At 20° C., 9 g of a solution with 19% by weight of HCl in 2-butanone are added. Once the precipitation of the solid has occurred, it is heated to 50° C. and it is diluted with 40 ml of methyl ethyl ketone. It is kept under stirring for an hour and then it is cooled down again to 20° C. The solid is filtered and is washed with 80 ml of methyl ethyl ketone. After vacuum drying at 40° C., 20.6 g of 2-{Benzyl-[2-(4-benzyloxyphenyl)-ethyl]-amino}-1-(4-hydroxy-phenyl)-propan-1-one hydrochloride as a white solid, are obtained.

reactant | 2-{Benzyl-[2-(4-benzyloxyphenyl)-ethyl]-amino}-1-(4-hydroxy-phenyl)-propan-1-one | 20 g | C(C1=CC=CC=C1)N(C(C(=O)C1=CC=C(C=C1)O)C)CCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C31H31NO3
reactant | HCl | Cl | ClH
solvent | 2-butanone | CC(CC)=O | C4H8O
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 2-{Benzyl-[2-(4-benzyloxyphenyl)-ethyl]-amino}-1-(4-hydroxy-phenyl)-propan-1-one hydrochloride | 20.6 g, yield 95% | Cl.C(C1=CC=CC=C1)N(C(C(=O)C1=CC=C(C=C1)O)C)CCC1=CC=C(C=C1)OCC1=CC=CC=C1 | InChI=1S/C31H31NO3.ClH/c1-24(31(34)28-14-16-29(33)17-15-28)32(22-26-8-4-2-5-9-26)21-20-25-12-18-30(19-13-25)35-23-27-10-6-3-7-11-27;/h2-19,24,33H,20-23H2,1H3;1H
